US07776857B2
Step 5: 7,7-Difluoro-octahydropyrrolo[1,2-a]pyrazine
A pressure bottle was charged with (S)-7,7-difluoro-hexahydropyrrolo[1,2-a]pyrazine-1,4-dione (350 mg, 1841 μmol) and THF under nitrogen, and the solution was cooled to 0° C. under nitrogen. Lithium aluminum hydride (3681 μl, 3681 μmol) was added, the mixture was allowed to warm to RT, followed by heating at reflux for 3 h. 2 mL of water was carefully added, followed by 2 mL of 6N NaOH. After stirring for 10 min, the mixture was filtered through Celite and washed with EtOAc. The filtrate was concentrated. GC/MS: [M+H]=163.

reactant | (S)-7,7-difluoro-hexahydropyrrolo[1,2-a]pyrazine-1,4-dione | 1841 μmol, 350 mg | FC1(C[C@@H]2N(C(CNC2=O)=O)C1)F | C7H8F2N2O2
reactant | THF | C1CCOC1 | C4H8O
reactant | Lithium aluminum hydride | 3681 μmol, 3681 μl | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | 6N, 2 mL | [OH-].[Na+]
solvent | water | 2 mL | O | H2O
product | 7,7-Difluoro-octahydropyrrolo[1,2-a]pyrazine | FC1(CC2N(CCNC2)C1)F | C7H12F2N2
